US07297710B1
A) 1-(4-Chlorophenyl)butane-1,3-dione
A mixture containing 45 g of ethyl 4-chlorobenzoate in 235 ml of anhydrous THF and 19.50 g of NaH (60% in mineral oil) in 235 ml of anhydrous THF is placed under nitrogen. 36 ml of acetone and 750 ml of additional anhydrous THF are added dropwise at 0° C., and it is heated under reflux for 3 hours. The mixture is acidified to pH=5 by addition of 2N HCl then it is extracted with ether and washed with water and then with saturated NaHCO3 solution; it is dried over MgSO4 and concentrated. The raw product is dissolved in a minimum of toluene, the insoluble matter is filtered then it is purified by chromatography on silica, eluting with cyclohexane/AcOEt mixture (95/5; v/v). 47.9 g of the expected compound is obtained.

reactant | ethyl 4-chlorobenzoate | 45 g | ClC1=CC=C(C(=O)OCC)C=C1 | C9H9ClO2
reactant | NaH | 19.50 g | [H-].[Na+]
reactant | acetone | 36 ml | CC(=O)C | C3H6O
reactant | HCl | 2N | Cl | ClH
solvent | THF | 235 ml | C1CCOC1 | C4H8O
solvent | THF | 235 ml | C1CCOC1 | C4H8O
solvent | THF | 750 ml | C1CCOC1 | C4H8O
product | 1-(4-Chlorophenyl)butane-1,3-dione | 47.9 g | ClC1=CC=C(C=C1)C(CC(C)=O)=O | C10H9ClO2
